US04473085
Preparation And Pyrolysis Of Ethyl 2-(2-Butyl)-3-hydroxy-3-methyldodecanoate
Pyrolysis of a sample of the prepared hydroxy-ester at about 300° C. for 2 minutes yields a 1:1 mixture of 2-undecanone and ethyl 3-methylvalerate.

reactant | 2-undecanone | CC(CCCCCCCCC)=O | C11H22O
reactant | ethyl 3-methylvalerate | CC(CC(=O)OCC)CC | C8H16O2
product | Ethyl 2-(2-Butyl)-3-hydroxy-3-methyldodecanoate | CC(CC)C(C(=O)OCC)C(CCCCCCCCC)(C)O | C19H38O3
